US03998799
Next, the step of deprotecting the N-formyl-3,4-diacetyloxy-L-phenylalanyl-glycine-benzyl ester was preformed. 0.90 g (2.0 millimole) of the aforementioned compound was allowed to react with a 2.2 ml of a 1N methanolic-hydrochloric acid solution (prepared by diluting 2 ml of concentrated hydrochloric acid to 24 ml with methanol) overnight. Initially, a suspension formed and an additional 5 ml of methanol was added to the suspension. After about 0.5 hours, all of the solid had gone into solution. The solution was concentrated in vacuo at room temperature and the nmr spectrum of the residue showed the absence of CH3CO2 and O=CH-N absorptions. The residue was dissolved in 60 ml of anhydrous methanol to which 0.5 ml of glacial acetic acid had been added. The solution was shaken in a Parr shaker under hydrogen atmosphere over 0.1 g of a 10% Pd/C catalyst overnight. The suspension was then filtered to remove the catalyst and concentrated in vacuo at room temperature. The residue was twice diluted with acetone (100 ml) and concentrated. Then, it was dissolved in glacial acetic acid saturated with hydrogen chloride (10 ml) and allowed to react with acetyl chloride (10 ml). A solid formed, but soon went back into solution. After eight hours at room temperature, the acetic acid solution was then diluted to 125 ml with ether. The ether was then decanted and the gummy dark residue left behind was suspended in ether (100 ml). The suspension was stirred overnight to yield a fine white solid in suspension, which was filtered quickly and dried in a vacuum desiccator to yield 0.59 g (shrinking at 100° C, wet at 114° C, and foaming from 120°-127° C, 78% yield) of 3,4-diacetyloxy-L-phenylalanyl-glycine hydrochloride. The nmr was consistent with the proposed structure of the compound obtained and upon analysis of a sample of this compound, by recrystallization from methanol-ether, the following data was obtained. Analysis Calculated for: C15H19N2O7Cl: C, 48.06; H, 5.11; and N, 7.48. Found: C, 48.22; H, 5.34; and N, 7.72.

reactant | N-formyl-3,4-diacetyloxy-L-phenylalanyl-glycine-benzyl ester | C(C1=CC=CC=C1)OC(CNC([C@@H](NC=O)CC1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O)=O | C23H24N2O8
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 3,4-diacetyloxy-L-phenylalanyl-glycine hydrochloride | 0.59 g, 78% yield | Cl.C(C)(=O)OC=1C=C(C[C@H](N)C(=O)NCC(=O)O)C=CC1OC(C)=O | InChI=1S/C15H18N2O7.ClH/c1-8(18)23-12-4-3-10(6-13(12)24-9(2)19)5-11(16)15(22)17-7-14(20)21;/h3-4,6,11H,5,7,16H2,1-2H3,(H,17,22)(H,20,21);1H/t11-;/m0./s1
